US08026234B2
Compound 107: 4-((R)-9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N—((R)-piperidin-3-yl)benzamide
The title compound was synthesized from (R)-4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and (R)-1-Boc-3-aminopiperidine. Further, after washing with water (10 ml), t-butoxycarbonyl (Boc) protection group was removed using 40% TFA in dichloromethane (6 ml) and purified the product using preparative HPLC and basified using sodium bicarbonate solution to give free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.20-1.33 (m, 2H) 1.30-1.80 (m, 7H) 1.81-2.02 (m, 4H) 2.31-2.45 (m, 2H) 2.81 (d, J=12.63 Hz, 1H) 2.97 (d, J=8.08 Hz, 1H) 3.29 (s, 3H) 3.71-3.90 (m, 3H) 3.94 (s, 3H) 4.89 (d, J=8.59 Hz, 1H) 5.32-5.45 (m, 2H) 6.01 (ddd, J=17.56, 12.76, 10.86 Hz, 1H) 7.41-7.53 (m, 2H) 7.82 (s, 1H) 8.00 (d, J=7.83 Hz, 1H) 8.12 (s, 1H) 8.31 (d, J=8.08 Hz, 1H). [M+H] calc'd for C28H36FN7O3, 538. found 538.

reactant | (R)-4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C([C@](C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C24H28FN5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-1-Boc-3-aminopiperidine | C(=O)(OC(C)(C)C)N1C[C@@H](CCC1)N | C10H20N2O2
product | 4-((R)-9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N—((R)-piperidin-3-yl)benzamide | C1(CCCC1)N1C2=C(N(C([C@](C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)N[C@H]1CNCCC1)C=C2)OC | C28H36FN7O3
